US07410966B2
6-Bromo-2-(1-phenyl-1H-1,2,3-triazol-4-yl)-3H-imidazo[4,5-b]pyridine
The title compound was prepared from 5-bromo-2,3-diaminopyridine and 1-phenyl-1H-1,2,3-triazole-4-carboxaldehyde.

reactant | 5-bromo-2,3-diaminopyridine | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | 1-phenyl-1H-1,2,3-triazole-4-carboxaldehyde | C1(=CC=CC=C1)N1N=NC(=C1)C=O | C9H7N3O
product | 6-Bromo-2-(1-phenyl-1H-1,2,3-triazol-4-yl)-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C=2N=NN(C2)C2=CC=CC=C2 | C14H9BrN6
